US07834051B2
tert-butyl 1-((2S)-2-{[(benzyloxy)carbonyl]amino}-1-(tert-butyldimethylsilyloxy)butyl)cyclopropanecarboxylate
To a solution of tert-butyl 1-((2S)-2-{[(benzyloxy)carbonyl]amino}-1-hydroxybutyl)cyclopropanecarboxylate (914.8 mg) and 2,6-lutidine (0.632 mL) in tetrahydrofuran (20 mL) was added under ice-cooling tert-butyldimethylsilane trifluoromethanesulfonate (0.934 mL) and, after warming to room temperature, the mixture was stirred for 1 hr. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=50/1→2/1) to give the title compound as a colorless oil (yield: 1.18 g, 98%).

reactant | tert-butyl 1-((2S)-2-{[(benzyloxy)carbonyl]amino}-1-hydroxybutyl)cyclopropanecarboxylate | 914.8 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(O)C1(CC1)C(=O)OC(C)(C)C)CC | C20H29NO5
reactant | 2,6-lutidine | 0.632 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | tert-butyldimethylsilane trifluoromethanesulfonate | 0.934 mL | FC(S(=O)(=O)O)(F)F.C(C)(C)(C)[SiH](C)C
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | tert-butyl 1-((2S)-2-{[(benzyloxy)carbonyl]amino}-1-(tert-butyldimethylsilyloxy)butyl)cyclopropanecarboxylate | yield: 1.18 g, 98% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(O[Si](C)(C)C(C)(C)C)C1(CC1)C(=O)OC(C)(C)C)CC | C26H43NO5Si
